spice
* SPICE netlist for the given schematic
VDD 3 0 DC 5
* Current Sources
I1 3 2 DC 1m
Iin 4 0 DC 1m
* PMOS Transistor - M2
* Drain - 3, Gate - 2, Source - 3
? Missing component
* NMOS Transistor - M1
* Drain - 2, Gate - 4, Source - 0
M1 2 4 0 NMOS_MODEL
* Voltage Output
Vout 2 0
.model PMOS_MODEL PMOS
.model NMOS_MODEL NMOS
.end
